US07939528B2
4-Hydroxybenzaldehyde (945 mg, 7.7 mmol), 4-fluoro-2-methyl-1-nitrobenzene (1.0 g, 6.4 mmol), and K2CO3 (1.77 g, 12.8 mmol) were stirred in 55 mL dimethylformamide at 100 degrees Centigrade for 18 hours. The reaction was cooled to room temperature, diluted with ethylacetate, extracted two times with 1N NaOH, and rinsed with brine. The organic layer was dried over MgSO4, filtered and concentrated to afford 1.72 g crude 4-[(3-methyl-4-nitrophenyl)oxy]benzaldehyde, which was used without further purification.

reactant | 4-Hydroxybenzaldehyde | 7.7 mmol, 945 mg | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 4-fluoro-2-methyl-1-nitrobenzene | 6.4 mmol, 1.0 g | FC1=CC(=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | K2CO3 | 12.8 mmol, 1.77 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylformamide | 55 mL | CN(C=O)C | C3H7NO
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 4-[(3-methyl-4-nitrophenyl)oxy]benzaldehyde | 1.72 g | CC=1C=C(C=CC1[N+](=O)[O-])OC1=CC=C(C=O)C=C1 | C14H11NO4
